US06855730B2
3-{2-[6-(4-Fluorophenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-5-methyl-1H-pyrrol-3-yl}propionic acid
6-(4-Fluorophenyl)-1,3-dihydroindol-2-one (70 mg, 0.31 mmol) was condensed with 3-(2-formyl-5-methyl-1H-pyrrol-3-yl)-propionic acid (56 mg) to give the title compound.

reactant | 6-(4-Fluorophenyl)-1,3-dihydroindol-2-one | 0.31 mmol, 70 mg | FC1=CC=C(C=C1)C1=CC=C2CC(NC2=C1)=O | C14H10FNO
reactant | 3-(2-formyl-5-methyl-1H-pyrrol-3-yl)-propionic acid | 56 mg | C(=O)C=1NC(=CC1CCC(=O)O)C | C9H11NO3
product | 3-{2-[6-(4-Fluorophenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-5-methyl-1H-pyrrol-3-yl}propionic acid | FC1=CC=C(C=C1)C1=CC=C2C(C(NC2=C1)=O)=CC=1NC(=CC1CCC(=O)O)C | C23H19FN2O3
